US05051508
1-(2-Methylphenyl)-4-oxo-6-methyl-4,5-dihydropyrrolo[3,2-c]quinoline (4.75 g) and phosphoryl chloride (40 ml) were heated at reflux for 1.5 hours. The phosphoryl chloride was evaporated in vacuo, the residue poured onto ice and extracted with dichloromethane, which was dried and evaporated. Crystallisation from ethanol yielded 1-(2-methylphenyl)-4-chloro-6-methylpyrrolo[3,2-c]quinoline (4.76 g), m.p.135°-137°.

reactant | 1-(2-Methylphenyl)-4-oxo-6-methyl-4,5-dihydropyrrolo[3,2-c]quinoline | 4.75 g | CC1=C(C=CC=C1)N1C=CC=2C(NC=3C(=CC=CC3C21)C)=O | C19H16N2O
reactant | phosphoryl chloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-(2-methylphenyl)-4-chloro-6-methylpyrrolo[3,2-c]quinoline | 4.76 g | CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)C)Cl | C19H15ClN2
